US05189138
2,3,9,10-Tetramethyl-5,12-diphenyl-5,12-bis (trifluoromethyl)-5H,12H-7,14-dioxapentacene
A mixture of 45.7 g (0.144 mole) 1,4-bis(3,4 dimethylphenoxy)benzene, 50.0 g (0.288 mole) trifluoroacetylbenzene, and 90 g (4.5 mole) HF was shaken in an autoclave at 120° C. for 8 hours. The clave contents were transferred to a polyethylene jar, half filled with ice-water, and containing 250 ml 50% NaOH. Methylene chloride was added, the slurry was filtered through Celite®, the organic layer was separated and the extracts were stripped. The residue was stirred with acetone and filtered, yielding 19.4 g of white solid. Because of its low solubility in methylene chloride, some product was lost on the Celite® pad. The IR was sharp, and the NMR was consistent with structure: m 7.33-7.45, 2 s 6.85, 2 s 6.67, s 6.55, 2 s 2.21, s 2.07 ppm in 5:1:1:1:3:3 ratio, indicating presence of cis-trans isomers. Analysis: calc. for C38H28F6O2 : C 72.4; H 4.44; found: C 71.3; H 4.57%.

reactant | 1,4-bis(3,4 dimethylphenoxy)benzene | 0.144 mole, 45.7 g | CC=1C=C(OC2=CC=C(C=C2)OC2=CC(=C(C=C2)C)C)C=CC1C | C22H22O2
reactant | trifluoroacetylbenzene | 0.288 mole, 50.0 g | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | polyethylene | C(C[*:2])[*:1]
reactant | NaOH | 250 ml | [OH-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3,9,10-Tetramethyl-5,12-diphenyl-5,12-bis (trifluoromethyl)-5H,12H-7,14-dioxapentacene | 19.4 g | CC1=CC=2OC3=CC=4C(C5=CC(=C(C=C5OC4C=C3C(C2C=C1C)(C(F)(F)F)C1=CC=CC=C1)C)C)(C(F)(F)F)C1=CC=CC=C1 | C38H28F6O2
